### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Galois): evaluation is injective and more basic properties

### PR DESCRIPTION
**Pull request by chrisflav**
Shows one of the key technical lemmas about Galois categories, namely that evaluation on a point of the fibre of morphisms out of a connected object is injective.

Also adds some more basic properties on when objects are initial and preservation and reflection of monomorphisms.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Galois/Basic.lean [hunk 1]
```diff
@@ -123,8 +126,97 @@ noncomputable instance : ReflectsColimitsOfShape (Discrete PEmpty.{1}) F :=
...
+
+private lemma IsInitial.isInitial_iff_obj {D : Type v₁} [Category.{v₂} D] (G : C ⥤ D)
+    [PreservesColimitsOfShape (Discrete PEmpty.{1}) G]
+    [ReflectsColimitsOfShape (Discrete PEmpty.{1}) G] (X : C) :
+    Nonempty (IsInitial X) ↔ Nonempty (IsInitial (G.obj X)) := by
+  constructor
+  · intro ⟨h⟩
+    exact ⟨IsInitial.isInitialObj G X h⟩
+  · intro ⟨h⟩
+    exact ⟨IsInitial.isInitialOfObj G X h⟩
```
Comment (kbuzzard) [inline Mathlib/CategoryTheory/Galois/Basic.lean:166]:
```suggestion
    Nonempty (IsInitial X) ↔ Nonempty (IsInitial (G.obj X)) :=
  ⟨fun ⟨h⟩ ↦ ⟨IsInitial.isInitialObj G X h⟩ , fun ⟨h⟩ ↦ ⟨IsInitial.isInitialOfObj G X h⟩⟩
```
You can just write the term.

File: Mathlib/CategoryTheory/Galois/Basic.lean [hunk 2]
```diff
@@ -123,8 +126,97 @@ noncomputable instance : ReflectsColimitsOfShape (Discrete PEmpty.{1}) F :=
...
+
+private lemma Types.initial_iff_empty (X : Type w) : Nonempty (IsInitial X) ↔ IsEmpty X := by
```
Comment (kbuzzard) [inline Mathlib/CategoryTheory/Galois/Basic.lean:168]: Why are you making these lemmas private? I could imagine others needing them. Probably they would need to go in other files?

File: Mathlib/CategoryTheory/Galois/Basic.lean [hunk 3]
```diff
@@ -123,8 +126,97 @@ noncomputable instance : ReflectsColimitsOfShape (Discrete PEmpty.{1}) F :=
...
+    Nonempty (IsInitial X) ↔ IsEmpty X := by
+  rw [IsInitial.isInitial_iff_obj FintypeCat.incl, Types.initial_iff_empty]
+  rfl
+
+/- An object is initial if and only if fibre is empty. -/
+lemma initial_iff_fibre_empty (X : C) : Nonempty (IsInitial X) ↔ IsEmpty (F.obj X) := by
+  rw [IsInitial.isInitial_iff_obj F X]
+  exact FintypeCat.initial_iff_empty (F.obj X)
+
+/- An object is not initial, if fibre is nonempty. -/
```
Comment (kbuzzard) [inline Mathlib/CategoryTheory/Galois/Basic.lean:185]:
```suggestion
/- An object is not initial, if its fibre is inhabited. -/
```

File: Mathlib/CategoryTheory/Galois/Basic.lean [hunk 4]
```diff
@@ -123,8 +126,97 @@ noncomputable instance : ReflectsColimitsOfShape (Discrete PEmpty.{1}) F :=
...
+lemma not_initial_of_inhabited {X : C} (x : F.obj X) (h : IsInitial X) : False :=
+  ((initial_iff_fibre_empty F X).mp ⟨h⟩).false x
+
+/- Fibre of connected object is nonempty. -/
```
Comment (kbuzzard) [inline Mathlib/CategoryTheory/Galois/Basic.lean:189]:
```suggestion
/- The fibre of a connected object is nonempty. -/
```

File: Mathlib/CategoryTheory/Galois/Basic.lean [hunk 5]
```diff
@@ -123,8 +126,97 @@ noncomputable instance : ReflectsColimitsOfShape (Discrete PEmpty.{1}) F :=
...
+lemma nonempty_fibre_of_connected (X : C) [ConnectedObject X] : Nonempty (F.obj X) := by
+  by_contra h
+  have ⟨hin⟩ : Nonempty (IsInitial X) := (initial_iff_fibre_empty F X).mpr (not_nonempty_iff.mp h)
+  exact ConnectedObject.notInitial hin
+
+/- Fibre of equalizer of `f g : X ⟶ Y` is equivalent to set of agreement of `f` and `g`. -/
```
Comment (kbuzzard) [inline Mathlib/CategoryTheory/Galois/Basic.lean:195]:
```suggestion
/-- The fibre of the equalizer of `f g : X ⟶ Y` is equivalent to the set of agreement of `f` and `g`. -/
```

File: Mathlib/CategoryTheory/Galois/Basic.lean [hunk 6]
```diff
@@ -123,8 +126,97 @@ noncomputable instance : ReflectsColimitsOfShape (Discrete PEmpty.{1}) F :=
...
+private noncomputable def fibreEqualizerEquiv {X Y : C} (f g : X ⟶ Y) :
+    F.obj (equalizer f g) ≃ { x : F.obj X // F.map f x = F.map g x } := by
+  apply Iso.toEquiv
+  trans
+  · exact PreservesEqualizer.iso (F ⋙ FintypeCat.incl) f g
+  · exact Types.equalizerIso (F.map f) (F.map g)
+
+/- The evaluation map is injective for connected objects. -/
```
Comment (kbuzzard) [inline Mathlib/CategoryTheory/Galois/Basic.lean:203]:
```suggestion
/-- The evaluation map is injective for connected objects. -/
```
There is no harm in making these comments into docstrings.

File: Mathlib/CategoryTheory/Galois/Basic.lean [hunk 7]
```diff
@@ -123,8 +126,97 @@ noncomputable instance : ReflectsColimitsOfShape (Discrete PEmpty.{1}) F :=
...
+    Function.Injective (fun (f : A ⟶ X) => F.map f a) := by
+  intro f g (h : F.map f a = F.map g a)
+  have : IsIso (equalizer.ι f g) := by
+    apply ConnectedObject.noTrivialComponent _ (equalizer.ι f g)
+    exact not_initial_of_inhabited F ((fibreEqualizerEquiv F f g).symm ⟨a, h⟩)
+  exact eq_of_epi_equalizer
+
+/- The evaluation map on automorphisms is injective for connected objects. -/
+lemma evaluation_aut_injective_of_connected (A : C) [ConnectedObject A] (a : F.obj A) :
+    Function.Injective (fun f : Aut A => F.map (f.hom) a) := by
```
Comment (kbuzzard) [inline Mathlib/CategoryTheory/Galois/Basic.lean:214]:
```suggestion
    Function.Injective (fun f : Aut A ↦ F.map (f.hom) a) := by
```
(and twice on the next line): I think that `↦` is the mathlib convention?

File: Mathlib/CategoryTheory/Galois/Basic.lean [hunk 8]
```diff
@@ -123,8 +126,97 @@ noncomputable instance : ReflectsColimitsOfShape (Discrete PEmpty.{1}) F :=
...
+  show Function.Injective ((fun f : A ⟶ A => F.map f a) ∘ (fun f : Aut A => f.hom))
+  apply Function.Injective.comp
+  exact evaluationInjective_of_connected F A A a
+  exact @Aut.ext _ _ A
```
Comment (kbuzzard) [inline Mathlib/CategoryTheory/Galois/Basic.lean:218]:
```suggestion
  · exact evaluationInjective_of_connected F A A a
  · exact @Aut.ext _ _ A
```

**Review by kbuzzard — COMMENTED** [review]
Thanks a lot for formalising this interesting material!

**Comment by chrisflav** [comment]
Thank's for the detailed feedback @kbuzzard. I applied your suggestions, I just have one question on one of the remarks above.

File: Mathlib/CategoryTheory/Galois/Basic.lean (hunk 2 above)
Comment (chrisflav) [reply Mathlib/CategoryTheory/Galois/Basic.lean]: I moved the one for `Type u` in the corresponding file. The one for `FintypeCat` I am not sure about: There is no file `CategoryTheory.Limits.Shapes.FintypeCat` yet and I think I once asked @joelriou a similar question and they said, they prefer not introducing such a file and instead formulating statements like this for `ConcreteCategory`. In this case I am unsure if this is worth the generality? This holds for full subcategories of `Type u` that have the empty set, so I might as well say it holds for `FintypeCat`.

File: Mathlib/CategoryTheory/Galois/Basic.lean [hunk 9]
```diff
@@ -123,8 +127,77 @@ noncomputable instance : ReflectsColimitsOfShape (Discrete PEmpty.{1}) F :=
 noncomputable instance : PreservesFiniteLimits F :=
   preservesFiniteLimitsOfPreservesTerminalAndPullbacks F
 
+/-- Fibre functors reflect monomorphisms. -/
+instance foo : ReflectsMonomorphisms F := ReflectsMonomorphisms.mk <| by
```
Comment (riccardobrasca) [inline Mathlib/CategoryTheory/Galois/Basic.lean:131]:
```suggestion
instance : ReflectsMonomorphisms F := ReflectsMonomorphisms.mk <| by
```
You can choose a name if you want.

File: Mathlib/CategoryTheory/Galois/Basic.lean [hunk 10]
```diff
@@ -123,8 +127,77 @@ noncomputable instance : ReflectsColimitsOfShape (Discrete PEmpty.{1}) F :=
...
+      rw [← equalizerComparison_comp_π f g F]
+      exact IsIso.comp_isIso
+    haveI : IsIso (equalizer.ι f g) := isIso_of_reflects_iso _ F
+    exact eq_of_epi_equalizer
+
 end FibreFunctor
 
+variable (F : C ⥤ FintypeCat.{w}) [FibreFunctor F]
+
+private lemma FintypeCat.initial_iff_empty (X : FintypeCat.{w}) :
```
Comment (riccardobrasca) [inline Mathlib/CategoryTheory/Galois/Basic.lean:155]: Can this go a more basic file? And I think there is no need to have it private.

File: Mathlib/CategoryTheory/Galois/Basic.lean [hunk 11]
```diff
@@ -123,8 +127,77 @@ noncomputable instance : ReflectsColimitsOfShape (Discrete PEmpty.{1}) F :=
...
+  rfl
+
+/-- An object is initial if and only if its fibre is empty. -/
+lemma initial_iff_fibre_empty (X : C) : Nonempty (IsInitial X) ↔ IsEmpty (F.obj X) := by
+  rw [(IsInitial.isInitialIffObj F X).nonempty_congr]
+  exact FintypeCat.initial_iff_empty (F.obj X)
+
+/-- An object is not initial, if its fibre is inhabited. -/
+lemma not_initial_of_inhabited {X : C} (x : F.obj X) (h : IsInitial X) : False :=
+  ((initial_iff_fibre_empty F X).mp ⟨h⟩).false x
```
Comment (riccardobrasca) [inline Mathlib/CategoryTheory/Galois/Basic.lean:167]:
```suggestion
/-- An object whose fibre is inhabited is not initial. -/
lemma not_initial_of_inhabited {X : C} (x : F.obj X) : ¬(IsInitial X) :=
  ((initial_iff_fibre_empty F X).mp ⟨h⟩).false x
```
The statement is of course the same as your version, but I find a little inelegant to prove `False`.

**Review by riccardobrasca — APPROVED** [review]

File: Mathlib/CategoryTheory/Galois/Basic.lean (hunk 9 above)
Comment (chrisflav) [reply Mathlib/CategoryTheory/Galois/Basic.lean:131]: Good catch, I added this earlier to analyze @kbuzzard s Remark.

File: Mathlib/CategoryTheory/Galois/Basic.lean (hunk 10 above)
Comment (chrisflav) [reply Mathlib/CategoryTheory/Galois/Basic.lean:155]: See the discussion above. Should I just make a new file `Mathlib.CategoryTheory.Limits.Shapes.FintypeCat`? Or do you have a different suggestion? Maybe this can be generalized to concrete categories somehow?

File: Mathlib/CategoryTheory/Galois/Basic.lean (hunk 11 above)
Comment (chrisflav) [reply Mathlib/CategoryTheory/Galois/Basic.lean:167]: That does not work unfortunately, since `IsInitial X` is not `Prop`-valued.

File: Mathlib/CategoryTheory/Galois/Basic.lean (hunk 2 above)
Comment (chrisflav) [reply Mathlib/CategoryTheory/Galois/Basic.lean]: I have now put some API on initials and terminals in concrete categories. Is this what you head in mind @adamtopaz ? Maybe we can somehow make the `forget FintypeCat` definition reducible, so that it automatically infers the instances from `FintypeCat.incl`? See the additional `haveI`s in the new version.

File: Mathlib/CategoryTheory/Limits/Shapes/Types.lean [hunk 12]
```diff
@@ -153,6 +153,14 @@ noncomputable def isInitialPunit : IsInitial (PEmpty : Type u) :=
   initialIsInitial.ofIso initialIso
 #align category_theory.limits.types.is_initial_punit CategoryTheory.Limits.Types.isInitialPunit
 
+/-- An object in `Type u` is initial if and only if it is empty. -/
+lemma initial_iff_empty (X : Type u) : Nonempty (IsInitial X) ↔ IsEmpty X := by
```
Comment (jcommelin) [inline Mathlib/CategoryTheory/Limits/Shapes/Types.lean:157]: Is the corresponding lemma for terminal objects already there?

**Review by jcommelin — COMMENTED** [review]
Looking good to me. Just one minor comment.

File: Mathlib/CategoryTheory/Limits/Shapes/Types.lean (hunk 12 above)
Comment (chrisflav) [reply Mathlib/CategoryTheory/Limits/Shapes/Types.lean:157]: There is [CategoryTheory.Limits.Types.isTerminalEquivUnique](https://leanprover-community.github.io/mathlib4_docs/Mathlib/CategoryTheory/Limits/Shapes/Types.html#CategoryTheory.Limits.Types.isTerminalEquivUnique) which is stated in a slightly different form, because `Unique X` is not `Prop`-valued. One can deduce the analogous statement `Nonempty (IsTerminal X) ↔ Nonempty (Unique X)` by applying [Equiv.nonempty_congr](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Logic/Equiv/Defs.html#Equiv.nonempty_congr). I considered adding this as a corollary, but decided against it.

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
